Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
pancreatic fistula, biliary stones, s/p ERCP with pancreas stent
placement on ___
 
Major Surgical or Invasive Procedure:
pancreatic stent removal - ___
hematoma drainage dorsum of right foot - ___

 
History of Present Illness:
___ yoM s/p OLT in ___ and s/p distal pancreatectomy with
splenectomy back in ___ of this year for ITP now comes in 
for scheduled ERCP and stone extraction. Has been living at home
since d/c on ___. Patient states that he has been feeling
generally well and denies fevers, chills, nausea or vomiting. 
Has been tolerating regular diet.  
 

 
Past Medical History:
# ESLD ___ HCV cirrhosis, s/p OLT on ___  
- c/b biliary strictures w/ Roux en-Y hepaticogjejunostomy 
___  
# h/o polysubstance abuse  
# h/o L ureteral obstruction s/p stent placement ___  
- new stent placed ___ for L hydronephrosis  
# anal fissures/fistulae s/p repair ___  
# hypertension  
# SVT  
# esophagitis  
# cognitive disorder  
# adjustment disorder  
Portal vein thrombus
Splenomegaly
ITP
gram negative bacteremia ___
L hydronephrosis ___ splenomegaly with stent placement
___ ercp:pancreatic duct stent
PSH: (per initial H&P)  
# OLT ___ c/b biliary strictures w/ Roux en-Y 
hepaticojejunostomy
# incision hernia repair ___  
# s/p hemorrhoid repair  
# anal fistulectomy in ___ + ___, ___ placement 
___  
# appendectomy  
# cholecystectomy  
# splenectomy with distal pancreatectomy ___
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Vitals: 97.2, 65, 90/64, 20, 98%RA, glc: 90, wt: 69.1kg
  NAD, sitting comfortably in bed.
  AAO x3, very talkative
  RRR no MRG
  CTA B/L 
  Soft, protuberant, NT, ND, scars all healed well. Drain in
  place in L flank with yellow drainage into bag.  No
  erythema at site.
  2+ edema in RLE, pitting in nature, palpable pulses at 
  DP's with significant pressure thru edema.

 
Pertinent Results:
___ 04:50PM   WBC-10.5 RBC-3.96* HGB-12.7* HCT-39.6* 
MCV-100* MCH-32.0 MCHC-32.0 RDW-19.3*
___ 04:50PM   ALT(SGPT)-60* AST(SGOT)-97* LD(LDH)-233 ALK 
PHOS-443* AMYLASE-118* TOT BILI-1.3
___ 04:50PM   GLUCOSE-90 UREA N-37* CREAT-1.0 SODIUM-135 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-28 ANION GAP-10
___ 04:50PM   ___ PTT-47.4* ___

___ 05:40AM BLOOD WBC-9.0 RBC-3.60* Hgb-11.5* Hct-36.0* 
MCV-100* MCH-32.0 MCHC-32.1 RDW-18.7* Plt ___
___ 05:40AM BLOOD ___ PTT-79.6* ___
___ 05:40AM BLOOD Glucose-66* UreaN-27* Creat-0.8 Na-138 
K-4.3 Cl-102 HCO3-28 AnGap-12
___ 05:40AM BLOOD tacroFK-7.8
 
Brief Hospital Course:
He was admitted the night prior to ERCP for IV heparin as he has 
been on coumadin for portal vein and SMV thrombus. Heparin was 
initiated. On ___, he received a total of 6 bags of platelets 
for an inr of 3.4. He experienced a urticarial reaction after 
the 2nd bag of platelets infused requiring iv benadryl and 
tylenol. Urticaria resolved and the INR decreased to 1.8. 
Unfortunately, the ERCP was postponed one more day due to need 
for anesthesia for ERCP. The ERCP was done on ___ with 
successful removal of the pancreatic duct stent. The duct was 
normal. Given previous drainage procedure, decision was made not 
to pursue CBD stone extraction. He was stable post ERCP. IV 
heparin was resumed, and he was restarted on the Coumadin. INR 
therapeutic at discharge.

An abdominal CT was done to assess the LUQ fluid collection. CT 
showed that the left upper quadrant fluid collection since 
___ is stable, there is decreased empyema. Also grossly 
stable liver transplant with chronic thrombus in the portal and 
splenic veins. Pigtail drain was removed.

On ___, he dropped his phone on his right foot experiencing 
swelling, pain and a hematoma. An XRAY was negative for fracture 
and on ___, the hematoma was evacuated and dressing placed. This 
will be followed by ___ at home. He was evaluated by ___ for a 
cane.

 
Medications on Admission:
 Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
2. Amylase-Lipase-Protease 33,200-10,000- 37,500 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO QIDWMHS (4 times a day 

(with meals and at bedtime)).  
3. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 

bedtime).  
8. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO Q 12H (Every 12 Hours).  
9. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
10. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Testosterone 5 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 

Transdermal DAILY (Daily).  
12. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 

a day).  
13. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
15. Risedronate 35 mg Tablet Sig: One (1) Tablet PO 1X/WEEK 
(ONCE PER WEEK): started ___.  
16. Calcium Carbonate 500 mg Tablet, Chewable Sig: Three (3) 
Tablet, Chewable PO DAILY (Daily).  
17. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
18. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime) as needed for insomnia, anxiety.  
19. Furosemide 40 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
20. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 7 doses.
Disp:*7 Tablet(s)* Refills:*0*
21. Methadone 10 mg Tablet Sig: Six (6) Tablet PO DAILY (Daily). 

22. Insulin Lispro 100 unit/mL Solution Sig: follow sliding 
scale  Subcutaneous ASDIR (AS DIRECTED).  
23. Outpatient Lab Work
Labs ___: cbc, chem 7, ast, alt, alk phos, t.bili, trough 
prograf and ___
fax to ___ attn: ___, RN Transplant 
Coordinator
24. Warfarin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
25. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO twice a day. 

 

 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. Testosterone 5 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily). Patch 24 hr(s) 
4. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed.  
5. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Furosemide 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
7. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
10. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
11. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
12. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
13. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
14. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed.  
15. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
16. Insulin Lispro 100 unit/mL Solution Sig: SSI  Subcutaneous 
ASDIR (AS DIRECTED).  
17. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
18. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed.  
19. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
20. Risedronate 35 mg Tablet Sig: One (1) Tablet PO once a week 
().  
21. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
22. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
23. Coumadin 2 mg Tablet Sig: One (1) Tablet PO once a day.  
24. Methadone 10 mg Tablet Sig: Five (5) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
s/p pancreatic stent removal

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, inability to take or 
keep down medications or other concerning symptoms
Continue outpatient labwork as directed by the transplant 
clinic. Have results faxed to ___
Continue all medicaiotns, immunosuppressive and coumadin as 
directed
Continue your ___ clinic
 
Followup Instructions:
___